US06087380
1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-cyclopentyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-cyclopentyl-N-(2-ethoxycarbonylethyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 60% of theory, C27H34N6O3 (490.6) EKA mass spectrum: (M+H)+ =491

reactant | 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-cyclopentyl-N-(2-ethoxycarbonylethyl)-amide | C1(CCCC1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)OCC | C27H31N5O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-cyclopentyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 60% | Cl.C1(CCCC1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC | InChI=1S/C27H34N6O3.ClH/c1-3-36-25(34)14-15-33(21-6-4-5-7-21)27(35)19-10-13-23-22(16-19)31-24(32(23)2)17-30-20-11-8-18(9-12-20)26(28)29;/h8-13,16,21,30H,3-7,14-15,17H2,1-2H3,(H3,28,29);1H
